Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],4.44364252698
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3][O:4][C:5][H:6],5.00701642227
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],7.330926654039999
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],3.46383217395
[C:1](#[C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11])[H:3]>>[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9]([H:10])[H:11],2.25794710799
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])[H:10]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])[H:10],-7.3187517474
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-7.65873596548
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:3].[O:1][C:2]#[C:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],3.72864259802
[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-4.99750224
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-1.94629342776
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.23830967601
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],1.97844619599
[H:1][C:2]([H:3])=[C:4][C:10]([C:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12],-2.57351079166
[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[H:4][C:7]#[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],0.917654752551
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.7554027107
[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([O:3][H:4])[C:9]([H:10])([H:11])[H:12],-0.115351348139
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][H:9].[H:4],3.79963852729
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.6842443908700002
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.72916685833
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.52818928074
[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]#[C:5][H:6].[O:1][O:2][C:3][C:7]([H:8])([H:9])[H:10],6.3933937846500015
[H:1][C:2][O:3][C:4][H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-1.5085061722
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.66251549722
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.80915778462
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.66184743468
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:12]([H:13])=[C:14][H:15],4.5807787377
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-4.4732601691300005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.89965322876
[C:2](#[C:3][C:4]([H:5])=[C:6][H:7])[O:8][H:9].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])=[C:6][H:7])[O:8][H:9],-3.85316693167
[C:3]([H:4])=[C:5]([H:6])[O:7][H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.54117616742
